US06133258
The reaction procedure of Example 11 was followed except that 255 mg of 2-anilino-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 9 mg of lithium hydride and 0.063 ml of methyl iodide were used. As a result, 113 mg of 3-methyl-2-phenylimino-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained.

reactant | 2-anilino-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 255 mg | N(C1=CC=CC=C1)C=1SC2=C(C(N1)=O)C=CC=N2 | C13H9N3OS
reactant | lithium hydride | 9 mg | [H-].[Li+]
reactant | methyl iodide | 0.063 ml | CI | CH3I
product | 3-methyl-2-phenylimino-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 113 mg | CN1C(SC2=C(C1=O)C=CC=N2)=NC2=CC=CC=C2 | C14H11N3OS
